US07932401B2
12.8 Analogous reaction of 5-[5-iodo-2,4-dimethoxyphenyl]1-(2-nitrophenyl)-1H-pyrazole with isopropenylbenzene, hydrogenation and ether cleavage gives the compound 5-{5-(2-phenylpropyl)-2,4-dihydroxyphenyl}-1-(2-aminophenyl)-1H-pyrazole.

reactant | 5-[5-iodo-2,4-dimethoxyphenyl]1-(2-nitrophenyl)-1H-pyrazole | IC=1C(=CC(=C(C1)C1=CC=NN1C1=C(C=CC=C1)[N+](=O)[O-])OC)OC | C17H14IN3O4
reactant | isopropenylbenzene | C(=C)(C)C1=CC=CC=C1 | C9H10
solvent | ether | CCOCC | C4H10O
product | 5-{5-(2-phenylpropyl)-2,4-dihydroxyphenyl}-1-(2-aminophenyl)-1H-pyrazole | C1(=CC=CC=C1)C(CC=1C(=CC(=C(C1)C1=CC=NN1C1=C(C=CC=C1)N)O)O)C | C24H23N3O2
